US07799822B2
4-(4-(2-(3-Chloro-4-fluorophenoxy)acetyl)piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide
Synthesized according to general procedure 5, method A. The reaction was set up with 0.08 mmol 4-(piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide, 0.08 mmol 2-(3-chloro-4-fluorophenoxy)acetic acid, 0.08 mmol BOP reagent, 0.08 mmol triethylamine and 200 μL DMF. 1H NMR (400 MHz, DMSO-d6) δ 7.62 (d, J=9.0 Hz, 2H), 7.33 (t, J=9.1 Hz, 1H), 7.23-7.19 (m, 2H), 7.01 (d, J=9.1 Hz, 2H), 6.97-6.93 (m, 1H), 6.78 (d, J=4.5 Hz, 1H), 4.92 (s, 2H), 3.58 (t, J=5.0 Hz, 4H), 3.30 (d, J=5.0 Hz, 4H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=511.30; tR=2.95 mm.

reactant | 4-(piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | 0.08 mmol | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C13H16N4O2S2
reactant | 2-(3-chloro-4-fluorophenoxy)acetic acid | 0.08 mmol | ClC=1C=C(OCC(=O)O)C=CC1F | C8H6ClFO3
reactant | BOP reagent | 0.08 mmol | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.08 mmol | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | 4-(4-(2-(3-Chloro-4-fluorophenoxy)acetyl)piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | ClC=1C=C(OCC(=O)N2CCN(CC2)C2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)C=CC1F | C21H20ClFN4O4S2
